US04014890
When N-carbethoxy-3-pyrrolidinone phenylhydrazone was reacted in refluxing ethanol in the presence of various strong acid catalysts such as 85% phosphoric acid, concentrated sulfuric acid and anhydrous zinc chloride, the best yield of 2-carbethoxy- 1,2,3,4-tetrahydropyrrolo[3,4-b]indole obtained was 10% of theory. The above phenylhydrazone (M.P. 138° C.) was obtained by reacting equimolar amounts of phenylhydrazine hydrochloride and N-carbethoxypyrrolidinone in refluxing ethanol. The phenylhydrazone is isolated by neutralizing the cooled reaction mixture with potassium carbonate, diluting with water, filtering and drying.

reactant | N-carbethoxy-3-pyrrolidinone phenylhydrazone | C1(=CC=CC=C1)NN=C1CN(CC1)C(=O)OCC | C13H17N3O2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 2-carbethoxy- 1,2,3,4-tetrahydropyrrolo[3,4-b]indole | C(=O)(OCC)N1CC=2NC=3C=CC=CC3C2C1 | C13H14N2O2
